US04440788
To 60 ml of ice-cooled 16% solution of hydrogen chloride in ethyl acetate was added dropwise a solution of 3.93 g (15 mmole) of S-methyl-N-butyloxycarbonyl-L-cysteine ethylamide in 60 ml of ethyl acetate over 20 minutes. After stirring for 2 hours, the reaction mixture was concentrated in vacuo and the residual oil was treated with ethyl ether to give 2.8 g (94% yield) of S-methyl-L-cysteine ethylamide hydrochloride as powder.

reactant | hydrogen chloride | Cl | ClH
reactant | S-methyl-N-butyloxycarbonyl-L-cysteine ethylamide | 15 mmole, 3.93 g | C(C)NC([C@@H](NC(=O)OCCCC)CSC)=O | C11H22N2O3S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | S-methyl-L-cysteine ethylamide hydrochloride | 2.8 g, 94% yield | Cl.C(C)NC([C@@H](N)CSC)=O | InChI=1S/C6H14N2OS.ClH/c1-3-8-6(9)5(7)4-10-2;/h5H,3-4,7H2,1-2H3,(H,8,9);1H/t5-;/m0./s1
